US06294547B1
Synthesis of 10-phenyl-1,2,3,4-tetrahydro-benzo[b][1,6]-naphthyridine
Palladium black (125 mg) was added to a solution of 2-benzyl-10-phenyl-1,2,3,4-tetrahydro-benzo[b][1,6]-naphthyridine (1.25 g, 3.57 mmol) in acetic acid (9 ml), and the resulting mixture was stirred under a hydrogen atmosphere for 9 hours. The catalyst was removed by filtration and the filtrate was concentrated under reduced pressure. The residue was made basic with 1N sodium hydroxide and extracted with diethyl ether. The extract solution was dried over anhydrous sodium sulfate and concentrated under reduced pressured to be freed of the solvent, and the residue was washed with diethyl ether to obtain the desired compound (0.45 g, 1.75 mmol, 49%).

reactant | 2-benzyl-10-phenyl-1,2,3,4-tetrahydro-benzo[b][1,6]-naphthyridine | 3.57 mmol, 1.25 g | C(C1=CC=CC=C1)N1CC=2C(=C3C(=NC2CC1)C=CC=C3)C3=CC=CC=C3 | C25H22N2
solvent | acetic acid | 9 ml | C(C)(=O)O | C2H4O2
catalyst | Palladium black | 125 mg | [Pd] | Pd
product | 10-phenyl-1,2,3,4-tetrahydro-benzo[b][1,6]-naphthyridine | 1.75 mmol, 0.45 g, 49% | C1(=CC=CC=C1)C1=C2C(=NC=3CCNCC13)C=CC=C2 | C18H16N2
